US04236912
2-(4-((6-Bromo-2-quinolinyl)oxy)phenoxy)propionic acid
Also, 2-(4-((6-bromo-2-quinolinyl)thio)phenoxy)propionic acid, m.p. 163°-169° C., was prepared by reacting 2,6-dibromoquinoline with 4-mercaptophenol as described hereinbefore. The corresponding 6-chloro substituted analog is among the preferred embodiments of the invention.

reactant | 2-(4-((6-bromo-2-quinolinyl)thio)phenoxy)propionic acid | BrC=1C=C2C=CC(=NC2=CC1)SC1=CC=C(OC(C(=O)O)C)C=C1 | C18H14BrNO3S
reactant | 2,6-dibromoquinoline | BrC1=NC2=CC=C(C=C2C=C1)Br | C9H5Br2N
reactant | 4-mercaptophenol | SC1=CC=C(C=C1)O | C6H6OS
product | 2-(4-((6-Bromo-2-quinolinyl)oxy)phenoxy)propionic acid | BrC=1C=C2C=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)O)C)C=C1 | C18H14BrNO4
